Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[N:1]([C:2](=[O:3])[C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])([H:10])[H:11])([H:8])[H:9].[O:7]([H:12])[H:16]>>[N:1]([C:2](=[O:3])[C:4]([C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9],48.7022135918
[C:1]([O:2][C@:3]1([H:11])[C@@:4]([O:6][C:7]([H:13])([H:14])[H:15])([H:12])[O:5]1)([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C:4](=[O:5])[O:6][C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],28.528928063466402
[O:1]=[C:2]1[C:3]([H:8])([H:9])[O:4][C@@:5]2([H:10])[C:6]([H:11])([H:12])[C@@:7]12[H:13]>>[O:1]=[C:2]1[C:3]([H:8])([H:9])[O:4][C@:5]([C:6][H:12])([H:10])[C:7]1([H:11])[H:13],65.9130447712013
[C:1]([C:2]#[C:3][C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]=[C:4]([C:5](=[O:6])[H:12])[H:11])[H:10])([H:7])([H:8])[H:9],55.6444786681069
[C:1]([O:2][C:6]([O:7][H:15])([H:13])[H:14])([H:8])([H:9])[H:10].[C:3](=[O:4])=[C:5]([H:11])[H:12]>>[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],45.0513019693189
[O:1]=[C:2]([N:3]([C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8]>>[O:1]=[C:2]([N:3]1[C:4]([H:10])([H:11])[C:5]([H:12])([H:13])[C:6]1=[C:7]([H:9])[H:14])[H:8],78.8432454164491
[C:1]([C:2]([N:3]([C:6](=[O:7])[H:14])[H:11])=[O+:4][C-:5]([H:12])[H:13])([H:8])([H:9])[H:10]>>[C:1](/[C:2](=[N:3]\[H:11])[O:4][C:5]([C:6](=[O:7])[H:14])([H:12])[H:13])([H:8])([H:9])[H:10],2.921004084321112
[C:1]1([H:7])([H:8])[C:2]([C:6][H:16])([H:9])[C:3]([H:10])([H:11])[C:4]([H:12])([H:13])[C:5]1([H:14])[H:15]>>[C:1]1([H:7])([H:8])[C@:2]2([H:9])[C:3]([H:10])([H:11])[C:4]([H:12])([H:13])[C:5]([H:14])([H:15])[C@:6]12[H:16],42.29630459427288
[O:1]=[C:2]([N:3]([C:4]([C:5]#[C:6][H:11])([H:9])[H:10])[H:8])[H:7]>>[O:1]=[C:2](/[C:6](=[C:5]1\[N:3]([H:8])[C:4]1([H:9])[H:10])[H:11])[H:7],67.1733857199103
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])=[C:4]=[O:5])([H:7])([H:8])[H:9].[N:6]([H:10])([H:14])[H:15]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4](=[O:5])[N:6]([H:14])[H:15])[H:10])([H:7])([H:8])[H:9],35.83169588918141
[N:1]([c:2]1[n:3][n:4][c:5]([N:6]([H:10])[H:11])[o:7]1)([H:8])[H:9]>>[N+:1](=[C:2]=[C:5]([N:6]([H:10])[H:11])[O-:7])([H:8])[H:9].[N:3]#[N:4],60.696327384681304
[C:1]([C:2](=[O:3])[C@@:7]1([H:13])[C:4]([H:11])=[C:5]([H:12])[O:6]1)([H:8])([H:9])[H:10]>>[C:1]([C@@:2]12[O:3][C@@:4]3([H:11])[C@:5]1([H:12])[O:6][C@@:7]23[H:13])([H:8])([H:9])[H:10],88.27912656921669
[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([C:5]([C:6]([H:18])([H:19])[H:20])([H:16])[H:17])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3][C:5]([C:6]([H:18])([H:19])[H:20])([H:16])[H:17])([H:10])[H:11])([H:7])([H:8])[H:9].[C:4]([H:12])([H:13])([H:14])[H:15],82.9755076103025
[N+:1](=[C:2]=[C:5]([N:6]([H:10])[H:11])[O-:7])([H:8])[H:9].[N:3]#[N:4]>>[N:1]([c:2]1[n:3][n:4][c:5]([N:6]([H:10])[H:11])[o:7]1)([H:8])[H:9],61.493030071354575
[C:1]1([H:8])([H:9])[C-:2]([H:10])[C:6]([C:5]([C:4](=[C:3]([H:11])[H:12])[H:13])([H:14])[H:15])([H:16])[C+:7]1[H:17]>>[C:1]1([H:8])([H:9])[C@@:2]2([H:10])[C:3]([H:11])([H:12])[C@:4]3([H:13])[C:5]([H:14])([H:15])[C@@:6]2([H:16])[C@:7]13[H:17],5.485802303592692
[C:1]([C@@:2]([C:3]([C:6](=[O:7])[H:17])([H:12])[H:13])([C:4](=[C:5]([H:15])[H:16])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10],63.2150137676328
[O:1]([C:2](/[C:3](=[C:4](/[O:5][C:6](=[O:7])[H:13])[H:12])[H:11])([H:9])[H:10])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]1([O:5][C:6](=[O:7])[H:13])[H:12])[H:8],72.80953224149992
[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4]>>[N:1](=[C:2](/[C:6](=[O:5])[H:9])[C-:7]([N+:4]#[N:3])[H:10])\[H:8],76.39022829791
[C:1]([O:2][H:15])([H:8])([H:9])[H:10].[C:3]1([H:11])([H:12])[C:4](=[N:5][O:6][H:13])[C:7]1([H:14])[H:16]>>[C:1]([O:2][C:3](/[C:4](=[N:5]\[O:6][H:13])[C:7]([H:14])([H:15])[H:16])([H:11])[H:12])([H:8])([H:9])[H:10],40.660327680465
[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4]>>[H:9][H:10].[N:1](=[C:2]=[C:7]=[C:6]=[O:5])[H:8].[N:3]#[N:4],79.9258649626856
[C:1]([C:2]([O:4][C:3]([O+:6]=[C-:5][N:7]([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([O:4][C:5](=[O:6])[N:7]([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],62.62095140756751
[C:1]([O:2][C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:6]#[N:7])([H:8])([H:9])[H:10]>>[C:1]1([H:8])([H:10])[C:6]([C:3]([O:2][H:9])([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])=[N:7]1,90.2074783533012
[C:1]([N:2]([C:3](=[O:4])[N:5]([H:10])[H:11])[H:9])([H:6])([H:7])[H:8]>>[C:1]([N:2]([H:8])[H:9])([C:3](=[O:4])[N:5]([H:10])[H:11])([H:6])[H:7],120.635692123344
[C:1]([C:2]([C:3]#[C:4][C:5]([O:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]1=[C:4]([O:6][H:14])[C:5]1([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],72.6762866016697
